US04906634
N,N-Diethyl-3-(4-nitrophenoxy)propanamine hydrochloride
Heat 19.41 g (0.09 mol) of 1-(3-chloropropoxy)-4-nitrobenzene and 50 mL (0.48 mol) of diethylamine in 100 mL of acetonitrile at 45°-50° C. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 95:5). At the completion of the reaction remove the solvent in vacuo. Dissolve the residue in 100 mL of H2O and make the mixture acidic (pH=1) with concentrated hydrochloric acid. Extract the acidic solution with 3×100 mL of diethyl ether. Neutralize the acid solution (pH=7) with 20% aqueous sodium hydroxide solution and extract with 3×100 mL of diethyl ether. Adjust the pH of the aqueous layer to 12 with 20% aqueous sodium hydroxide solution and extract with 3×100 mL of diethyl ether. Wash the ether extracts from the basic solution with 50 mL of saturated sodium chloride solution, combine them and dry over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent in vacuo. Dissolve the residue in 100 mL of methanol and add concentrated hydrochloric acid until pH=1. Stir the solution with 2 g of charcoal, filter and remove the solvent in vacuo. Recrystallize the residue from acetonitrile to obtain the title compound.

reactant | 1-(3-chloropropoxy)-4-nitrobenzene | 0.09 mol, 19.41 g | ClCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3
reactant | diethylamine | 0.48 mol, 50 mL | C(C)NCC | C4H11N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N,N-Diethyl-3-(4-nitrophenoxy)propanamine hydrochloride | Cl.C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC | InChI=1S/C13H20N2O3.ClH/c1-3-14(4-2)10-5-11-18-13-8-6-12(7-9-13)15(16)17;/h6-9H,3-5,10-11H2,1-2H3;1H
